US09228075B2
About 200 mL of acetonitrile (manufactured by Junsei Co., Ltd. in Japan) was mixed with about 52.7 mL (0.5 mol) of methylpyrrolidone (manufactured by Fluka Co., Ltd.) under a nitrogen atmosphere to form a liquid mixture. Subsequently, about 58.6 mL (0.55 mol) of 2-bromobutane (manufactured by Aldrich Co., Ltd.) was added into the liquid mixture drop by drop to form a mixed solution. Subsequently, the mixed solution was stirred at about 65° C. for about 48 hours under a nitrogen atmosphere, and was then stored at about 4° C. for about 12 hours to form crystals. After a supernatant was removed from the mixed solution, the crystals were dried at a temperature of about 35° C. and a pressure of about 0.2 atm for about 12 hours using a vacuum evaporator to remove a solvent therefrom. Subsequently, in order to remove impurities, the dried crystals were dissolved in about 100 mL of acetone, and were then stirred at a temperature of about 25° C. and a pressure of about 1 atm for about 30 minutes to form a solution. The solution was left at 4° C. for about 12 hours to form crystals again. After a supernatant was removed from the solution, the crystals were dried at a temperature of about 35° C. and a pressure of about 0.2 atm for about 12 hours using a vacuum evaporator. These processes were repeatedly conducted three times to obtain N-butyl-N-methylpyrrolidinium bromide at a yield of about 60%.

reactant | methylpyrrolidone | 0.5 mol, about 52.7 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-bromobutane | 0.55 mol, about 58.6 mL | BrC(C)CC | C4H9Br
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-butyl-N-methylpyrrolidinium bromide | yield of about 60% | [Br-].C(CCC)[N+]1(CCCC1)C | InChI=1S/C9H20N.BrH/c1-3-4-7-10(2)8-5-6-9-10;/h3-9H2,1-2H3;1H/q+1;/p-1
